US07863305B2
A suspension of NaI (0.235 g, 1.56 mmol) and 1-(3-chloro-1-phenyl-propyl)-1H-indole (0.141 mg, 0.52 mmol) in ethanolic methylamine solution (33%, 2 mL) was heated at 100° C. for 1 hour under microwave irradiation (sealed tube). The reaction mixture was poured into water (30 mL) and extracted with CH2Cl2 (3×25 mL). The combined organic layers were dried (Na2SO4), and evaporated under vacuum. Purification by chromatography (SiO2, CH2Cl2-MeOH—NH4OH, 18:1:0.1) gave 0.125 g (90% yield) of pure (3-indol-1-yl-3-phenyl-propyl)-methyl-amine as an oil. Treatment of this amino compound with an ethereal solution of HCl (2M, 0.26 mL) gave the corresponding hydrochloride salt (0.127 g) as a white powder: mp=218-219° C.; 1H NMR (DMSO) δ 2.53 (s, 3H), 2.60-2.89 (m, 4H), 5.86-5.91 (m, 1H), 6.585 (d, 1H, J=3.22 Hz), 6.98-7.12 (m, 2H), 7.20-7.34 (m, 5H), 7.52-7.54 (m, 2H), 7.71 (d, 1H, J=3.22 Hz), 9.0 (broad s, 1H); MS (EI) m/z 265 (M+H)+.

reactant | NaI | 1.56 mmol, 0.235 g | [Na+].[I-]
reactant | 1-(3-chloro-1-phenyl-propyl)-1H-indole | 0.52 mmol, 0.141 mg | ClCCC(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C17H16ClN
reactant | water | 30 mL | O | H2O
reactant | methylamine | 2 mL | CN | CH5N
product | (3-indol-1-yl-3-phenyl-propyl)-methyl-amine | 0.125 g, 90% yield | N1(C=CC2=CC=CC=C12)C(CCNC)C1=CC=CC=C1 | C18H20N2
